US07157447B2
5-Fluoro-2,N-dimethyl-benzenesulfonamide.
To a solution of 5-fluoro-2-methyl-benzenesulfonyl chloride (4.18 g, 20 mmol) in acetone (20 mL) was added a 40% aqueous solution of methylamine (4.5 mL, 60 mmol) under nitrogen and the mixture stirred for 5 min. Acetone was removed in vacuo and the aqueous residue extracted with CH2Cl2. The CH2Cl2 extract was dried (Na2SO4), filtered, concentrated and the residue purified by column chromatography (SiO2, 10% ether in CH2Cl2) to provide 3.9 g (19.2 mmol, Yield 96%) of the title compound as a white solid; 1H NMR (500 MHz, CDCl3) δ ppm: 2.59 (3H, s), 2.67 (3H, d, J=5.5 Hz), 4.41 (1H, brs), 7.13–7.20 (1H, m), 7.29 (1H, dd, J=8.2, 5.5 Hz), 7.69 (1H, J=8.6, 2.1 Hz); LC/MS m/z 204 (M+H).

reactant | 5-fluoro-2-methyl-benzenesulfonyl chloride | 20 mmol, 4.18 g | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
reactant | methylamine | 60 mmol, 4.5 mL | CN | CH5N
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 5-Fluoro-2,N-dimethyl-benzenesulfonamide | 19.2 mmol, 3.9 g, Yield 96% | FC=1C=CC(=C(C1)S(=O)(=O)NC)C | C8H10FNO2S
